US08431695B2
Preparation of 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-3-ol
To a solution of tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3-hydroxypiperidine-1-carboxylate (270 mg, 0.500 mmol) in MeOH (2.5 mL) was added 4M HCl in dioxane (1.25 mL). The mixture was stirred at rt for 17 h. The mixture was concentrated and the residue was dissolved in 3:1 CHCl3/isopropanol (25 mL). The mixture was washed with saturated, aqueous NaHCO3 (25 mL), brine, dried (Na2SO4) and concentrated to dryness to afford 211 mg (96%) of the desired product, which was approximately 50% pure. ES-MS m/z 440.19 [M+H]+, HPLC RT (min) 1.97. 50 mg of material was purified by preparative HPLC using a gradient elution from 15% to 40% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 28 mg of pure desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.89 (s, 1 H), 7.80 (d, 1 H), 7.58 (s, 1 H), 7.27-7.37 (m, 5 H), 7.13 (dd, 1.36 Hz, 1 H), 6.69 (s, 1 H), 5.64 (s, 2 H), 5.19 (s, 1 H), 2.77-2.93 (m, 2 H), 2.43-2.54 (m, 3 H), 2.12 (br s, 1 H), 1.68-1.88 (m, 2 H), 1.33-1.46 (m, 1 H); ES-MS m/z 439.92 [M+H]+, HPLC RT (min) 2.06.

reactant | tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3-hydroxypiperidine-1-carboxylate | 0.500 mmol, 270 mg | NC1=NC=NN2C1=C(C=C2C2(CN(CCC2)C(=O)OC(C)(C)C)O)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C30H33N7O3
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 2.5 mL | CO | CH4O
solvent | dioxane | 1.25 mL | O1CCOCC1 | C4H8O2
product | 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-3-ol | 211 mg, 96% | NC1=NC=NN2C1=C(C=C2C2(CNCCC2)O)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C25H25N7O
